US07396954B2
A suspension of ethyl 2-[4-(2-ethoxy-2-hydroxyethyl)-2,5-dimethylphenoxy]acetate (5.4 g), 10% palladium carbon (50% wet, 1.4 g), (1R,2S)-2-amino-1-(4-hydroxyphenyl)propan-1-ol (3.0 g) and tetrahydrofuran (30 g) was stirred under a hydrogen atmosphere at 40° C. for 3 hours. After the catalyst was removed by filtration, the filtrate was concentrated under reduced pressure. The residue was dissolved in toluene, and washed with water, an aqueous solution of sodium bicarbonate and brine successively. The organic layer was dried over anhydrous sodium sulfate, and the solvent was removed under reduced pressure to give ethyl (−)-2-[4-[2-[[(1S,2R)-2-hydroxy-2-(4-hydroxyphenyl)-1-methyethyl]amino]ethyl]-2,5-dimethylphenoxy]acetate (7.3 g).

reactant | ethyl 2-[4-(2-ethoxy-2-hydroxyethyl)-2,5-dimethylphenoxy]acetate | 5.4 g | C(C)OC(CC1=CC(=C(OCC(=O)OCC)C=C1C)C)O | C16H24O5
reactant | (1R,2S)-2-amino-1-(4-hydroxyphenyl)propan-1-ol | 3.0 g | N[C@H]([C@H](O)C1=CC=C(C=C1)O)C | C9H13NO2
catalyst | palladium carbon | 1.4 g | [C].[Pd]
solvent | tetrahydrofuran | 30 g | O1CCCC1 | C4H8O
product | ethyl (−)-2-[4-[2-[[(1S,2R)-2-hydroxy-2-(4-hydroxyphenyl)-1-methyethyl]amino]ethyl]-2,5-dimethylphenoxy]acetate | 7.3 g | O[C@@H]([C@H](C)NCCC1=CC(=C(OCC(=O)OCC)C=C1C)C)C1=CC=C(C=C1)O | C23H31NO5
